US07709466B2
b) 5-{2-[6-(4-Hydroxy-3,5-dimethyl-phenyl)-3-methoxy-pyridazin-4-yl]-1H-indol-3-yl}-1H-pyrimidine-2,4-dione
111 mg of 4-[5-(3-bromo-1H-indol-2-yl)-6-methoxy-pyridazin-3-yl]-2,6-dimethyl-phenol is treated analogously to example 6 (c), using 2,4-di(tert-butoxy)pyrimidin-5-yl boronic acid hydrate. Yield 100 mg. LC-MS (ES+) 455 (M+H)+.

reactant | 4-[5-(3-bromo-1H-indol-2-yl)-6-methoxy-pyridazin-3-yl]-2,6-dimethyl-phenol | 111 mg | BrC1=C(NC2=CC=CC=C12)C=1C=C(N=NC1OC)C1=CC(=C(C(=C1)C)O)C | C21H18BrN3O2
reactant | 2,4-di(tert-butoxy)pyrimidin-5-yl boronic acid hydrate | O.C(C)(C)(C)OC1=NC=C(C(=N1)OC(C)(C)C)B(O)O
product | 5-{2-[6-(4-Hydroxy-3,5-dimethyl-phenyl)-3-methoxy-pyridazin-4-yl]-1H-indol-3-yl}-1H-pyrimidine-2,4-dione | OC1=C(C=C(C=C1C)C1=CC(=C(N=N1)OC)C=1NC2=CC=CC=C2C1C=1C(NC(NC1)=O)=O)C | C25H21N5O4
